US06060508
400 mg of 2,3-dimethyl-7-[1,2-di(diethylamino)ethyl]benzofuran and 10 ml of a solution of hydrochloric acid in isopropanol are placed in a 100 ml round-bottomed flask. The salt is concentrated under vacuum and recrystallized from ethyl acetate. 400 mg (Yield: 88%) of 2,3-dimethyl-7-[1,2-di(diethylamino)ethyl]benzofuran hydrochloride are obtained. M.p.=183° C.

reactant | 2,3-dimethyl-7-[1,2-di(diethylamino)ethyl]benzofuran | 400 mg | CC=1OC2=C(C1C)C=CC=C2C(CN(CC)CC)N(CC)CC | C20H32N2O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,3-dimethyl-7-[1,2-di(diethylamino)ethyl]benzofuran hydrochloride | 400 mg, Yield: 88% | Cl.CC=1OC2=C(C1C)C=CC=C2C(CN(CC)CC)N(CC)CC | InChI=1S/C20H32N2O.ClH/c1-7-21(8-2)14-19(22(9-3)10-4)18-13-11-12-17-15(5)16(6)23-20(17)18;/h11-13,19H,7-10,14H2,1-6H3;1H
